US06166006
To methyl 7-(4-fluorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate (0.27 g) were added THF (5.0 ml), ethanol (10.0 ml) and 2N sodium hydroxide solution (1.0 ml), and the mixture was stirred at room temperature for 19 hours. Under reduced pressure, the solvent was removed, and the residue was diluted with water (100 ml). The aqueous layer was made acidic with hydrochloric acid, and the mixture was extracted with ethyl acetate (100 ml). The organic layer was dried with anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was crystallized and washed with hexane to give 7-(4-fluorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid (0.22 g, 86%) as white crystals.

reactant | methyl 7-(4-fluorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylate | 0.27 g | FC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)OC)C1 | C18H15FO3
reactant | THF | 5.0 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 2N, 1.0 ml | [OH-].[Na+]
solvent | ethanol | 10.0 ml | C(C)O | C2H6O
product | 7-(4-fluorophenyl)-2,3-dihydro-1-benzoxepine-4-carboxylic acid | 0.22 g, 86% | FC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C17H13FO3
